US20010027196A1
2-Amino-4-(2-bromo-benzylamino)-6-(5-bromo-furan-2-yl)-pyrimidine-5-carbonitrile
From 2-amino-4-(2-bromo-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile and N-bromosuccinimide in DMF. ES-MS m/e (%): 451 (M{81Br}+H+, 100), 449 (M{79Br}+H+, 95).

reactant | 2-amino-4-(2-bromo-benzylamino)-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=C(C=CC=C1)Br)C#N)C=1OC=CC1 | C16H12BrN5O
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Amino-4-(2-bromo-benzylamino)-6-(5-bromo-furan-2-yl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=C(C=CC=C1)Br)C#N)C=1OC(=CC1)Br | C16H11Br2N5O
